US09126945B2
N-{4-Chloro-3-[(1-cyanocyclopropyl)carbamoyl]phenyl}-N,1-dimethyl-3,4-bis(trifluoromethyl)-1H-pyrazole-5-carboxamide
68.3 mg (0.58 mmol) of 1-aminocyclopropanecarbonitrile hydrochloride are initially charged in 5.0 ml of dichloromethane p.a., and 0.148 ml (0.86 mmol) of N-ethyldiisopropylamine and 156 mg of 2-chloro-5-(methyl{[1-methyl-3,4-bis(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzoyl chloride (0.29 mmol) dissolved in 5.0 ml of dichloromethane p.a. are then added in succession. The reaction is stirred at room temperature for 16 hours. The reaction solution is diluted with 30 ml of ethyl acetate. The organic phase is washed twice with 1 N hydrochloric acid, once with 1 N aqueous sodium hydroxide solution and once with saturated sodium chloride solution. The organic phase is dried over magnesium sulphate and filtered and the solvent is removed on a rotary evaporator under reduced pressure.

reactant | 1-aminocyclopropanecarbonitrile hydrochloride | 0.58 mmol, 68.3 mg | Cl.NC1(CC1)C#N
reactant | N-ethyldiisopropylamine | 0.86 mmol, 0.148 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-5-(methyl{[1-methyl-3,4-bis(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzoyl chloride | 0.29 mmol, 156 mg | ClC1=C(C(=O)Cl)C=C(C=C1)N(C(=O)C1=C(C(=NN1C)C(F)(F)F)C(F)(F)F)C | C15H9Cl2F6N3O2
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-{4-Chloro-3-[(1-cyanocyclopropyl)carbamoyl]phenyl}-N,1-dimethyl-3,4-bis(trifluoromethyl)-1H-pyrazole-5-carboxamide | ClC1=C(C=C(C=C1)N(C(=O)C1=C(C(=NN1C)C(F)(F)F)C(F)(F)F)C)C(NC1(CC1)C#N)=O | C19H14ClF6N5O2
